US07576094B2
A solution of the crude 3-acetyl-4-hydroxy-2,5,6-trimethyl-phenyl acetate prepared as in Step 1 (1.0 g), cyclobutanone (415 mg) and piperidine (10 drops) in xylenes (2 mL) was heated at 180° C. for 5 min and then 230° C. for 20 min using a microwave. The solution was diluted with ethyl acetate, washed with water and brine, dried, evaporated, and chromatographed (silica gel, hexane-ethyl acetate 3% to 8%) to give 354 mg of 5,7,8-trimethyl-4-oxo-3,4-dihydrospiro[chromene-2,1′-cyclobutan]-6-yl acetate.

reactant | 3-acetyl-4-hydroxy-2,5,6-trimethyl-phenyl acetate | C(C)(=O)OC1=C(C(=C(C(=C1C)C)O)C(C)=O)C | C13H16O4
reactant | cyclobutanone | 415 mg | C1(CCC1)=O | C4H6O
catalyst | piperidine | 10 drops | N1CCCCC1 | C5H11N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5,7,8-trimethyl-4-oxo-3,4-dihydrospiro[chromene-2,1′-cyclobutan]-6-yl acetate | 354 mg | C(C)(=O)OC=1C(=C2C(CC3(CCC3)OC2=C(C1C)C)=O)C | C17H20O4
